US08486967B2
g) 8-(4-Fluoro-phenyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine
8-(4-Fluoro-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (232 mg, 1.02 mmol) in EtOH (10 mL) and aqueous HCl solution (25%, 162 L, 1.12 mmol) was hydrogenated in the presence of palladium on charcoal (10%, 232 mg, 0.22 mmol) at 50 bar and 50° C. for 18 hours. The catalyst was filtered off, washed thoroughly with EtOH and the solvent was removed from the combined filtrates. Saturated aqueous NaHCO3 solution was added to the residue. The aqueous phase was extracted with CH2Cl2, the combined organic phases were dried over sodium sulfate, the solvent was evaporated and the residue purified by silica gel chromatography using dichloromethane/methanol (with 10% ammonia) as eluent. The title compound was obtained as a white solid (174 mg, 74%).

reactant | 8-(4-Fluoro-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 1.02 mmol, 232 mg | FC1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)N | C12H9FN4
reactant | HCl | 1.12 mmol, 162 L | Cl | ClH
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | palladium on charcoal | 0.22 mmol, 232 mg | [Pd] | Pd
product | 8-(4-Fluoro-phenyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | FC1=CC=C(C=C1)C1C=2N(CCC1)N=C(N2)N | C12H13FN4
